.title comb_delay
.include /home/marcus/software/charlib/test/examples/osu350/spice/osu035_stdcells.sp
.include /home/marcus/software/charlib/test/examples/osu350/models/ami035.m
VDD VDD 0 3.3V
VNW VNW 0 3.3V
VPW VPW 0 0.0V
VC vC 0 PWL(0s 3.3V 6.000000000000001e-10s 3.3V 9.333333333333334e-10s 0.0V)
CYS vYS 0 0.06pF
Xdut GND VDD VDD VDD vC wfloat0 vYS FAX1
.options TEMP = 25C
.options TNOM = 25C
.options autostop
.options trtol = 1
.meas TRAN cell_fall__c_to_ys trig v(vC) val=1.65 fall=1 targ v(vYS) val=1.65 fall=1
.meas TRAN fall_transition__c_to_ys trig v(vYS) val=2.64 fall=1 targ v(vYS) val=0.66 fall=1
.tran 0.025ns 200.0ns 0s
.end